US06310056B1
To ice-cooled solution of 149 mg of 4-nitrobenzyl (3R,5R,6S)-6-((1R)-1-hydroxyethyl)-2-oxo-1-carbapenam-3-carboxylate in 4 ml of dry acetonitrile was added dropwise 0.187 ml of N,N-diisopropylethylamine, followed by 0.071 ml of anhydrous trifluoro-methanesulfonic acid under the atmosphere of argon. The solution was stirred at the same temperature for 30 minutes, diluted with ethyl acetate, and washed sequentially with a mixed solvent of semi-saturated aqueous saline and saturated aqueous sodium hydrogen carbonate (pH 8.9), and semi-saturated aqueous saline. The organic layer was dried over anhydrous magnesium sulfate, filtered, and the solvent was removed under reduced pressure. The residue thus obtained was dissolved in 2 ml of dry N-methylpyrrolidinone, added with 12 mg of tri-2-furylphosphine, 116 mg of zinc chloride, 12 mg of tris(dibenzylideneacetone)dipalladium (0), and a solution of 306 mg of 2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole in 1 ml of dry N-methylpyrrolidinone, and the mixture was stirred under the atmosphere of argon at 50° C. for 2 hours. The reaction mixture was diluted with 50 ml of ethyl acetate and 50 ml water, and insolubles were removed by filtration, and washed with ethyl acetate. The organic layer of the filtrate was separated, dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue thus obtained was purified by column chromatography on Sephadex LH-20 (chloroform:methanol=1:1). The fraction containing the aimed product was concentrated under reduced pressure, and triturated with 13 ml of diethyl ether to collect insolubles and thus to give 38.5 mg of 4-nitrobenzyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate.

reactant | 4-nitrobenzyl (3R,5R,6S)-6-((1R)-1-hydroxyethyl)-2-oxo-1-carbapenam-3-carboxylate | 149 mg | O[C@H](C)[C@@H]1[C@@H]2N([C@H](C(C2)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C16H16N2O7
reactant | N,N-diisopropylethylamine | 0.187 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoro-methanesulfonic acid | 0.071 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | tri-2-furylphosphine | 12 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | 2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 306 mg | C(CCC)[Sn](C1=CN2C(S1)=CN=C2)(CCCC)CCCC
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N-methylpyrrolidinone | 2 ml | CN1C(CCC1)=O | C5H9NO
solvent | N-methylpyrrolidinone | 1 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
catalyst | zinc chloride | 116 mg | [Cl-].[Zn+2].[Cl-]
catalyst | tris(dibenzylideneacetone)dipalladium | 12 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-nitrobenzyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate | 38.5 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)C2=CN3C(S2)=CN=C3)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C21H18N4O6S
